US07084114B2
Heptaethylene glycol inonomethyl ether (25)
To a solution of non-polydispersed tetraethylene glycol (51.5 g, 0.27 mol) in THF (1 L) was added potassium t-butoxide (14.8 g, 0.13 mol, small portions over ˜30 min). The reaction mixture was then stirred for 1 h and then 24 (29.15 g, 0.12 mol) dissolved in THF (90 mL) was added dropwise and the reaction mixture was stirred overnight. The crude reaction mixture was filtered through Celite (washed CH2Cl2, ˜200 mL) and evaporated to dryness. The oil was then dissolved in HCl (250 mL, 1 N) and washed with ethyl acetate (250 mL) to remove excess 24. Additional washings of ethyl acetate (125 mL) may be required to remove remaining 24. The aqueous phase was washed repetitively with CH2Cl2 (125 mL volumes) until most of the 25 has been removed from the aqueous phase. The first extraction will contain 24, 25, and dicoupled side product and should be back extracted with HCl (125 mL, 1N). The organic layers were combined and evaporated to dryness. The resultant oil was then dissolved in CH2Cl2 (100 mL) and washed repetitively with H2O (50 mL volumes) until 25 was removed. The aqueous fractions were combined, total volume 500 mL, and NaCl was added until the solution became cloudy and then was washed with CH2Cl2 (2×500 mL). The organic layers were combined, dried MgSO4, and evaporated to dryness to afford a the non-polydispersed title compound as an oil (16.9 g, 41% yield). It may be desirable to repeat one or more steps of the purification procedure to ensure high purity.

reactant | tetraethylene glycol | 0.27 mol, 51.5 g | C(COCCOCCOCCO)O | C8H18O5
reactant | potassium t-butoxide | 0.13 mol, 14.8 g | CC(C)([O-])C.[K+]
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | Heptaethylene glycol | 16.9 g, 41% yield | C(COCCOCCOCCOCCOCCOCCO)O | C14H30O8
